US06224739B1
Preparation of p-nitrostilbene
Under argon, a solution containing 218 mg of p-nitrobromobenzene, 141 mg of styrene, 0.3 ml of triethylamine, and 1 ml of propylene carbonate stabilized colloid solution with a palladium content of 4.023 mg is heated at 130° C. with stirring in a sealed vessel for 4.5 h. At the end of the reaction, 2 ml of diethyl ether/dichloromethane (1:1) is added, and the mixture is filtered. The yield of desired product as determined by GC is 96%.

reactant | p-nitrobromobenzene | 218 mg | [N+](=O)([O-])C1=CC=C(C=C1)Br | C6H4BrNO2
reactant | styrene | 141 mg | C=CC1=CC=CC=C1 | C8H8
reactant | triethylamine | 0.3 ml | C(C)N(CC)CC | C6H15N
reactant | propylene carbonate | 1 ml | C1(OCC(C)O1)=O | C4H6O3
catalyst | palladium | [Pd] | Pd
solvent | diethyl ether dichloromethane | 2 ml | C(C)OCC.ClCCl
product | p-nitrostilbene | C1=CC=C(C=C1)/C=C/C2=CC=C(C=C2)[N+](=O)[O-] | C14H11NO2
